US08212041B2
1-(2-Methoxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole.
The title compound was prepared in the same manner as 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole, using 1-(2-methoxyethyl)-4-bromo-1H-pyrazole (see Ivachtchenko, A. V., et al J. Het. Chem. 2004, 41, 931-939).

reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
reactant | 1-(2-methoxyethyl)-4-bromo-1H-pyrazole | COCCN1N=CC(=C1)Br | C6H9BrN2O
product | 1-(2-Methoxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | COCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H21BN2O3
